US05610162
Preparation of 20-(11-(ethylsulfinyl)undecanoyloxy)-4-methyl-5α-4-azapregnan-3-one
To a stirred solution of 20-(11-(ethylthio)undecanoyloxy)-4-methyl-5α-4-azapregnan-3-one (0.056 g, 0.1 mM) in acetone (5 mL) at room temperature was added a solution of sodium periodate (0.033 mg, 0.154mM) in water (3 drops). After prolonged stirring with additional portions of the periodate added (0.046 g total) over 3 days, the solvents were removed in vacuo, and the residue extracted with methylene chloride. The methylene chloride was removed in vacuo, and the resulting residue was flash chromatographed on silica gel (30% acetone/methylene chloride eluant) to give the title compound as a glaze. MS M+ calculated for C34H59NO4S, mw=577.90; observed m/e 577.

reactant | 20-(11-(ethylthio)undecanoyloxy)-4-methyl-5α-4-azapregnan-3-one | 0.1 mM, 0.056 g | C(C)SCCCCCCCCCCC(=O)OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4N(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C34H59NO3S
reactant | sodium periodate | 0.154mM, 0.033 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | periodate | I(=O)(=O)(=O)[O-]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
catalyst | water | 3 drops | O | H2O
product | 20-(11-(ethylsulfinyl)undecanoyloxy)-4-methyl-5α-4-azapregnan-3-one | C(C)S(=O)CCCCCCCCCCC(=O)OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4N(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C34H59NO4S
